US05180741
Stage A: (4-cyano-1-indanyl) acetate (racemic)
3.89 g of (RS) 1-hydroxy-4-indanecarbonitrile in 39 ml of pyridine is cooled to 0° C., 3.45 ml of acetic anhydride is added drop by drop, and the whole is agitated for 16 hours at 20° C. The reaction mixture is poured into 300 ml of water containing sodium chloride and extracted with isopropyl ether; the ethereal phase is washed with 2N hydrochloric acid and then with water until pH 7 is obtained. The ethereal phase is dried and brought to dryness, and the residue is taken up in 1,2-dichloroethane, and again concentrated to dryness under reduced pressure. The residue is taken up in 40 ml of hexane, agitated for one hour, filtered, and 4.46 g of expected product is recovered. M.p.=65° C.

reactant | (RS) 1-hydroxy-4-indanecarbonitrile | 3.89 g | OC1CCC=2C(=CC=CC12)C#N | C10H9NO
reactant | acetic anhydride | 3.45 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 300 ml | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | pyridine | 39 ml | N1=CC=CC=C1 | C5H5N
product | (4-cyano-1-indanyl) acetate | C(C)(=O)OC1CCC2=C(C=CC=C12)C#N | C12H11NO2
